US09130244B2
7.5 g (154 mmol) of sodium cyanide was added to 80 mL of dimethyl sulfoxide, and dissolved therein under heat at 90° C. 25.0 g (128 mmol) of methyl 5-bromovalerate was dropwise added to the solution at an inner temperature of 130° C. or lower, and stirred at 100° C. for 2 hours. After cooled to room temperature, 50 mL of water was added to this, which was then extracted with 60 mL of ethyl acetate. The organic layer was dried with magnesium sulfate, and the solvent was evaporated away under reduced pressure to give 18.0 g (yield 99%) of methyl 5-cyanovalerate.

reactant | sodium cyanide | 154 mmol, 7.5 g | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | 80 mL | CS(=O)C | C2H6OS
reactant | methyl 5-bromovalerate | 128 mmol, 25.0 g | BrCCCCC(=O)OC | C6H11BrO2
solvent | water | 50 mL | O | H2O
product | methyl 5-cyanovalerate | 18.0 g, yield 99% | C(#N)CCCCC(=O)OC | C7H11NO2
